US04049653
1-[4-(Morpholino)Butyryloxy]-3-(4-Phenyl-1-Methylbutyl)-6,6,9-Trimethyl-7,8,9,10-Tetrahydro-6H-Dibenzo[b,d]-Pyran Hydrochloride
0.91 g. (2.33 mmoles) of 1-hydroxy-3-(4-phenyl-1-methylbutyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-5H-dibenzo [b,d]pyran, prepared according to the method of Example 4, 0.48 g. (2.28 mmoles) of γ-morpholinobutyric acid hydrochloride (Cruickshank and Sheehan, J. Am. Chem. Soc. 83, 2891 (1961), m.p. 180° - 182° ) and 0.48 g. (2.35 mmoles) of dicyclohexylcarbodiimide (Aldrich) are combined with 35 ml. of methylene chloride and stirred at room temperature for a total of 40 hours. The insoluble by-product of dicyclohexylurea is removed using a rotary evaporator. The resulting residue is dissolved in about 20 ml. of benzene and a small amount of insoluble material is removed by filtration. The benzene is evaporated and the residue dried in vacuo to give 0.7 g. of material. Crystallization from benzene/pet ether yields the crystalline product.

reactant | 1-hydroxy-3-(4-phenyl-1-methylbutyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-5H-dibenzo [b,d]pyran | 2.33 mmoles | OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C(CCCC3=CC=CC=C3)C | C27H34O2
reactant | γ-morpholinobutyric acid hydrochloride | 2.28 mmoles | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 2.35 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-(Morpholino)Butyryloxy]-3-(4-Phenyl-1-Methylbutyl)-6,6,9-Trimethyl-7,8,9,10-Tetrahydro-6H-Dibenzo[b,d]-Pyran Hydrochloride | Cl.O1CCN(CC1)CCCC(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C(CCCC3=CC=CC=C3)C | InChI=1S/C35H47NO4.ClH/c1-25-15-16-30-29(22-25)34-31(39-33(37)14-9-17-36-18-20-38-21-19-36)23-28(24-32(34)40-35(30,3)4)26(2)10-8-13-27-11-6-5-7-12-27;/h5-7,11-12,23-26H,8-10,13-22H2,1-4H3;1H
